US03976693
5-Methyl-5,6,7,8,9,10,11,12-Octahydro-5,11-Methano-Benzocyclodecen-13-One
Using a procedure analogous to that described in Example X for the preparation of 6,7,8,9,10,11-hexahydro-3-methoxy-5-methyl-5,10-methano-5H-benzocyclononen-12-one there is prepared from 1-methyl-1-(5-bromopentyl)-2-tetralone (19.8 g., 0.0675 mole) and sodium hydride (3.57 g., 0.081 mole, of a 54.5% dispersion in mineral oil) in dimethylformamide (250 ml.); 6.2 g. (40.4%) of the title product, b.p. 126° to 135° C. (0.3 mm.).

reactant | 6,7,8,9,10,11-hexahydro-3-methoxy-5-methyl-5,10-methano-5H-benzocyclononen-12-one | COC1=CC2=C(CC3CCCCC2(C3=O)C)C=C1 | C16H20O2
reactant | 1-methyl-1-(5-bromopentyl)-2-tetralone | 0.0675 mole, 19.8 g | CC1(C(CCC2=CC=CC=C12)=O)CCCCCBr | C16H21BrO
reactant | sodium hydride | [H-].[Na+]
solvent | dimethylformamide | 250 ml | CN(C=O)C | C3H7NO
product | 5-Methyl-5,6,7,8,9,10,11,12-Octahydro-5,11-Methano-Benzocyclodecen-13-One | 40.4% | CC12CCCCCC(CC3=C1C=CC=C3)C2=O | C16H20O
